US05254578
trans-3,4-Dihydro-2,2 dimethyl-4-(4-nitro-1-oxoisoindolin-2-yl)-6-trifluoromethylsulfonyl-2H-1-benzopyran-3-ol (Compound No. 1-13)
0.362 g of trans-4 amino-3,4-dihydro-2,2-dimethyl-6-trifluoromethylsulfonyl-2H-1-benzopyran-3-ol (prepared from its hydrochloride, in turn prepared as described in Preparation 9) and 0.30 ml of triethylamine were added to a solution of 0.367 g of ethyl 2-bromomethyl-3-nitrobenzoate in 7.4 ml of dimethylformamide, and the resulting mixture was stirred at 100° C. for 1 hour in an atmosphere of nitrogen. The reaction mixture was then stirred under reflux of the solvent (at 152° C.) for a further 1 hour, after which the mixture was poured into dilute aqueous hydrochloric acid and extracted with ethyl acetate. The extract was then washed with water, with a saturated aqueous solution of sodium hydrogencarbonate and a with saturated aqueous solution of sodium chloride, after which it was dried over anhydrous sodium sulfate. The solvent was then removed by distillation under reduced pressure, and the residue was purified by column chromatography through silica gel, using a 1:1:1 by volume mixture of ethyl acetate, cyclohexane and tetrahydrofuran as the eluent. The product obtained from the eluate was recrystallized from a mixture of tetrahydrofuran and hexane to give 0.295 g of the title compound, melting at 292°-295° C.

reactant | trans-4 amino-3,4-dihydro-2,2-dimethyl-6-trifluoromethylsulfonyl-2H-1-benzopyran-3-ol | 0.362 g | N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)S(=O)(=O)C(F)(F)F)(C)C)O | C12H14F3NO4S
reactant | triethylamine | 0.30 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-bromomethyl-3-nitrobenzoate | 0.367 g | BrCC1=C(C(=O)OCC)C=CC=C1[N+](=O)[O-] | C10H10BrNO4
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 7.4 ml | CN(C=O)C | C3H7NO
product | trans-3,4-Dihydro-2,2 dimethyl-4-(4-nitro-1-oxoisoindolin-2-yl)-6-trifluoromethylsulfonyl-2H-1-benzopyran-3-ol | 0.295 g | CC1(OC2=C([C@H]([C@@H]1O)N1C(C3=CC=CC(=C3C1)[N+](=O)[O-])=O)C=C(C=C2)S(=O)(=O)C(F)(F)F)C | C20H17F3N2O7S
